US08440658B2
To a solution of (S)-3-(3,3-dimethylbutan-2-ylamino)-1-(4-fluorophenyl)propan-1-one (2.00 g, 7.97 mmol) and K2CO3 (3.30 g, 23.9 mmol) in CH2Cl2 (100 mL) was added methyl chloroformate (2.25 g, 23.9 mmol) dropwise at 0° C., and the reaction mixture was stirred at rt overnight. The solution was filtered, and the filtrate was concentrated to give the crude product, which was purified by chromatography to afford (S)-methyl 3,3-dimethylbutan-2-yl(3-(4-fluorophenyl)-3-oxopropyl)carbamate (2.0 g, 81%). 1H NMR (CDCl3): 0.92 (s, 9H), 1.12-1.21 (d, 3H), 3.02-3.11 (m, 1H), 3.27-3.49 (m, 1H), 3.66 (s, 3H), 3.98-4.23 (m, 1H), 7.06-7.17 (m, 2H), 7.92-8.08 (m, 2H).

reactant | (S)-3-(3,3-dimethylbutan-2-ylamino)-1-(4-fluorophenyl)propan-1-one | 7.97 mmol, 2.00 g | CC([C@H](C)NCCC(=O)C1=CC=C(C=C1)F)(C)C | C15H22FNO
reactant | K2CO3 | 23.9 mmol, 3.30 g | C(=O)([O-])[O-].[K+].[K+]
reactant | methyl chloroformate | 23.9 mmol, 2.25 g | ClC(=O)OC | C2H3ClO2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | (S)-methyl 3,3-dimethylbutan-2-yl(3-(4-fluorophenyl)-3-oxopropyl)carbamate | 2.0 g, 81% | CC([C@H](C)N(C(OC)=O)CCC(=O)C1=CC=C(C=C1)F)(C)C | C17H24FNO3
